US04018802
Step A-7. Preparation of 4-benzyloxy-5-(4-fluorophenoxy)-1-iodopentane
A solution of 4-benzyloxy-5-(4-fluorophenoxy)-1-pentanol tosylate (3.78 g., 8.24 mmoles) and sodium iodide (3.71 g., 25 mmoles) in acetone (70 ml.) is stirred at room temperature overnight (ca. 17 hours) and then heated on the steam bath for 15 minutes. The mixture is poured into cold water and extracted with ether three times. The combined extracts are washed with aqueous sodium thiosulfate and dried over anhydrous magnesium sulfate. The solvent is removed on a rotary evaportor to leave an oil residue which is further purified by chromatography on a silica gel (70 g.) column. Elution with chloroform gives the pure title compound (2.72 g., 6.57 mmoles, 79%). ir (neat) 3.28, 3.40, 6.20, 6.62, 6.87, 8.00, 8.23, 9.10, 12.07, 13.16, 13.58, 14.37μ; pmr (CCl4) δ 1.4-2.2 (4H, m), 3.08 (2H, t, J=6Hz), 3.5-4.1 (3H, m), 4.47 (1H, d, J=12 Hz), 4.69 (1H, d, J=12Hz), 6.6-7.1 (4H, m), 7.20 (5H, s).

reactant | 4-benzyloxy-5-(4-fluorophenoxy)-1-pentanol tosylate | 8.24 mmoles, 3.78 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCC(COC1=CC=C(C=C1)F)OCC1=CC=CC=C1 | C25H27FO5S
reactant | sodium iodide | 25 mmoles, 3.71 g | [I-].[Na+]
reactant | water | O | H2O
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 4-benzyloxy-5-(4-fluorophenoxy)-1-iodopentane | 6.57 mmoles, 2.72 g, 79% | C(C1=CC=CC=C1)OC(CCCI)COC1=CC=C(C=C1)F | C18H20FIO2
